US05969138
(3) Preparation of 1-(4-chlorophenyl)-3-hydroxymethyl-2-pyrrolidinone
Under ice-cooling, 3.9 g of sodium borohydride was added portionwise to a solution of 30.0 g of 1-(4-chlorophenyl)-3-ethoxycarbonyl-2-pyrrolidinone and 15 g of anhydrous calcium chloride in 150 mL of methanol. After completion of the reaction, the mixture was concentrated, and water and ethyl acetate were added. The mixture was acidified with diluted hydrochloric acid. After separation, the organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was crystallized with n-hexane-ethyl ether. The crystals were collected by filtration, washed with a mixture of n-hexane and diethyl ether and dried in vacuo to give 23.3 g of the title compound.

reactant | sodium borohydride | 3.9 g | [BH4-].[Na+]
reactant | 1-(4-chlorophenyl)-3-ethoxycarbonyl-2-pyrrolidinone | 30.0 g | ClC1=CC=C(C=C1)N1C(C(CC1)C(=O)OCC)=O | C13H14ClNO3
reactant | calcium chloride | 15 g | [Cl-].[Ca+2].[Cl-]
solvent | methanol | 150 mL | CO | CH4O
product | 1-(4-chlorophenyl)-3-hydroxymethyl-2-pyrrolidinone | 23.3 g | ClC1=CC=C(C=C1)N1C(C(CC1)CO)=O | C11H12ClNO2
